US05146015
As another example, 2-methyl-1-chloro-1,2,3,3,4,4,4-heptafluorobutane may be prepared by fluorinating commercially available 2-methyl-1-buten-3-yne to form 2-methyl-1,2,3,3,4,4-hexafluorobutane which may then be dehydrohalogenated to form 2-methyl-1,3,4,4-tetrafluoro-1,3-butadiene. The 2-methyl-1,3,4,4-tetrafluoro-1,3-butadiene may then be fluorinated to form 2-methyl-1,1,2,3,3,4,4,4-octafluorobutane which may then be dehalogenated to form 2-methyl-1,3,3,4,4,4-hexafluoro-1-butene. The 2-methyl-1,3,3,4,4,4-hexafluoro-1-butene may then be chlorofluorinated to form 2-methyl-1-chloro-1,2,3,3,4,4,4-heptafluorobutane.

reactant | 2-methyl-1-chloro-1,2,3,3,4,4,4-heptafluorobutane | CC(C(F)Cl)(C(C(F)(F)F)(F)F)F | C5H4ClF7
reactant | 2-methyl-1-buten-3-yne | CC(=C)C#C | C5H6
product | 2-methyl-1,2,3,3,4,4-hexafluorobutane | CC(CF)(C(C(F)F)(F)F)F | C5H6F6
